US05011947
Butyl cyclopropaneacetate
Thionyl chloride (10.7 g, 90 mmol) was added to cyclopropaneacetic acid (9.0 g 90 mmol) [J. Med. Chem. 27, 1291 (1984); Chem. Lett., 1273 (1983); J. Org. Chem. 43. 3496 (1978)]. After stirring for 64 hours the liquid was dissolved in ether and added to a solution of butanol (6.7 g, 90 mmol) and triethylamine (9.1 g, 90 mmol) in 100 mL of diethyl ether at 0° C. The mixture was stirred for 16 hours and washed with water. The organic phase was dried over magnesium sulfate and concentrated in vacuo. The residue was distilled at 46° C. at 2 mm of Hg to give 7 g of the title compound. MS(CI): m/e =156 for M+ of C9H16O2.

reactant | Thionyl chloride | 90 mmol, 10.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | cyclopropaneacetic acid | 90 mmol, 9.0 g | C1(CC1)CC(=O)O | C5H8O2
reactant | butanol | 90 mmol, 6.7 g | C(CCC)O | C4H10O
reactant | triethylamine | 90 mmol, 9.1 g | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | Butyl cyclopropaneacetate | 7 g | C1(CC1)CC(=O)OCCCC | C9H16O2
